US06358945B1
2-Amino-4-tert-butyl-6-nitrophenol was dissolved in triethyl orthoacetate (10 mL). The reaction mixture was stirred overnight at 100° C. Evaporation of volatiles in vacuo afforded 5-tert-butyl-2-methyl-7-nitrobenzoxazole (110 mg).

reactant | 2-Amino-4-tert-butyl-6-nitrophenol | NC1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])O | C10H14N2O3
reactant | triethyl orthoacetate | 10 mL | C(C)(OCC)(OCC)OCC | C8H18O3
product | 5-tert-butyl-2-methyl-7-nitrobenzoxazole | 110 mg | C(C)(C)(C)C=1C=C(C2=C(N=C(O2)C)C1)[N+](=O)[O-] | C12H14N2O3
